US04011230
Nitropropane (17.8 grams, 0.20 mole), formaldehyde (16.2 grams of 37% aqueous solution, 0.20 mole), carbon disulfide (15.2 grams, 0.20 mole), and dimethylammonium dimethyldithiocarbamate (33.2 grams, 0.20 mole) were dissolved in methanol (100 ml.). A mildly exothermic reaction resulted. After 21.5 hours, the reaction mixture was poured into water (850 ml.) and the precipitated oil was washed with water and then taken up in methylene chloride. The dried solution was concentrated in a rotary evaporator to leave an amber oil. A small sample of the product was chromatographed on Florisil adsorbant giving an oil which solidified when chilled in methanol solution. The main sample crystallized from cold methanol solution when it was seeded. Repeated recrystallization from cold methanol gave pure 2-nitrobutyl dimethyldithiocarbamate melting at about 23° C. The structure was determined from infrared and nuclear magnetic resonance spectra and elemental analysis.

reactant | Nitropropane | 0.20 mole, 17.8 grams | [N+](=O)([O-])CCC | C3H7NO2
reactant | formaldehyde | 0.20 mole, 16.2 grams | C=O | CH2O
reactant | carbon disulfide | 0.20 mole, 15.2 grams | C(=S)=S | CS2
reactant | dimethylammonium dimethyldithiocarbamate | 0.20 mole, 33.2 grams | CN(C([S-])=S)C.C[NH2+]C
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 850 ml | O | H2O
product | 2-nitrobutyl dimethyldithiocarbamate | CN(C(SCC(CC)[N+](=O)[O-])=S)C | C7H14N2O2S2
